US04661438
Preparation of 3,4-Dimethoxyphenyltellurium Trichloride
1,2-Dimethoxybenzene (veratrole, 13.8 g=0.1 mole) and tellurium tetrachloride (26.9 g=0.1 mole) were heated in chloroform (120 ml) for 2 hours under reflux and with stirring. After 30 minutes yellow crystals started to precipitate. The product (25.2 g, 67.9% of theory) was collected by filtration and dried in a vacuum oven, m.p. 162°-163° C. (dec. with gas evolution). The mass spectra were in agreement with that of the structural formula.

reactant | 1,2-Dimethoxybenzene | 0.1 mole, 13.8 g | COC1=C(C=CC=C1)OC | C8H10O2
reactant | tellurium tetrachloride | 0.1 mole, 26.9 g | [Te](Cl)(Cl)(Cl)Cl | Cl4Te
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,4-Dimethoxyphenyltellurium Trichloride | COC=1C=C(C=CC1OC)[Te](Cl)(Cl)Cl | C8H9Cl3O2Te
